US05576324
5-Methyl-2-(1-α-naphthylethylamino)methyl-2,3,6,7-tetrahydrofuro-[2,3-f]quinoline-7-one:
A mixture of 2-bromomethyl-5-methyl-2,3,6,7-tetrahydrofuro-[2,3-f]quinoline-7-one (1.48 g, 5.04 mmol) and S-(-)-1-(1-naphthyl)ethylamine (1.75 g, 10.2 mmol) was stirred in a hot bath at 150° C. for 3 hours. The reaction product was subjected to silica gel column chromatography (developer=chloroform: methanol=50:1) to obtain 1.78 g (91.9%) of a crude target material as a mixture of 2 types of diastereomers which are different at the position C-2. This product was further subjected to silica gel column chromatography (developer=chloroform: methanol=100:1), and the first eluted fraction was condensed under reduced pressure. As a result, 535 mg of a first diastereomer of the title compound was obtained as pale yellow powder (27.6%)

reactant | 2-bromomethyl-5-methyl-2,3,6,7-tetrahydrofuro-[2,3-f]quinoline-7-one | 5.04 mmol, 1.48 g | BrCC1CC=2C(=C3C=CC(NC3=C(C2)C)=O)O1 | C13H12BrNO2
reactant | S-(-)-1-(1-naphthyl)ethylamine | 10.2 mmol, 1.75 g | C[C@@H](C1=CC=CC2=CC=CC=C21)N | C12H13N
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | CO | CH4O
product | 5-Methyl-2-(1-α-naphthylethylamino)methyl-2,3,6,7-tetrahydrofuro-[2,3-f]quinoline-7-one | CC=1C=C2C(=C3C=CC(NC13)=O)OC(C2)CNC(C)C2=CC=CC1=CC=CC=C21 | C25H24N2O2
